US08791123B2
(R)—N-(5-fluoropyridin-2-yl)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a DMF (0.25 mL) solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 25 mg, 0.076 mmol) and HATU (35 mg, 0.092 mmol) was added 5-fluoropyridin-2-amine (10 mg, 0.092 mmol), followed by drop-wise addition of DIEA (0.040 mL, 0.23 mmol) at ambient temperature. The reaction was heated at 70° C. overnight, cooled, and directly purified by reverse-phase chromatography (5 to 66% acetonitrile/water) to yield the final product as white solid (25 mg, 78%). LCMS (apci) m/z=422.0 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.076 mmol, 25 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.092 mmol, 35 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-fluoropyridin-2-amine | 0.092 mmol, 10 mg | FC=1C=CC(=NC1)N | C5H5FN2
reactant | DIEA | 0.23 mmol, 0.040 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5-fluoropyridin-2-yl)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 25 mg, 78% | FC=1C=CC(=NC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C=NC=C(C2)F | C21H17F2N7O
